US07528135B2
4-Methyl-piperidine-1-carboxylic acid [6-(4-cyclopentyl-piperazin-1-yl)-pyridin-3-yl]-amide
A mixture of 29 mg (0.08 mmol) [6-(4-cyclopentyl-piperazin-1-yl)-pyridin-3-yl]-carbamic acid phenyl ester (intermediately built from intermediate 6 and phenylchloroformate) and 12 mg (0.12 mmol) 4-methyl-piperidine (commercially available) in 1 ml DCM and 0.1 ml DMF was stirred at room temperature for 16 h. After evaporation the residue was taken up in methanol/DMF and subjected to preparative HPLC purification on reversed phase eluting with a gradient of acetonitrile/water (0.05% triethylamine). The combined product fractions were evaporated to dryness to yield 13.6 mg (46%) of the title compound. (m/e): 372.3 (MH+; 100%).

reactant | [6-(4-cyclopentyl-piperazin-1-yl)-pyridin-3-yl]-carbamic acid phenyl ester | 0.08 mmol, 29 mg | C1(=CC=CC=C1)OC(NC=1C=NC(=CC1)N1CCN(CC1)C1CCCC1)=O | C21H26N4O2
reactant | phenylchloroformate | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | 4-methyl-piperidine | 0.12 mmol, 12 mg | CC1CCNCC1 | C6H13N
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-Methyl-piperidine-1-carboxylic acid [6-(4-cyclopentyl-piperazin-1-yl)-pyridin-3-yl]-amide | 13.6 mg, 46% | C1(CCCC1)N1CCN(CC1)C1=CC=C(C=N1)NC(=O)N1CCC(CC1)C | C21H33N5O
